US04254123
A solution of 1 g of 2-amino-3-carbamoyl-quinoxaline prepared from 2-chloro-3-carbethoxy-quinoxaline by the method of Gowenlock et al [J. Chem. Soc., 1945, p. 622-5] in 50 ml of dimethoxy ethane and ethyl bromopyruvate was stirred for 2 days and was filtered to obtain 1.44 g of 1-carbethoxycarbonylmethyl-2-amino-3-carbamoyl-quinoxalinium bromide as a yellow crystalline solid.

reactant | 2-amino-3-carbamoyl-quinoxaline | 1 g | NC1=NC2=CC=CC=C2N=C1C(N)=O | C9H8N4O
reactant | 2-chloro-3-carbethoxy-quinoxaline | ClC1=NC2=CC=CC=C2N=C1C(=O)OCC | C11H9ClN2O2
reactant | ethyl bromopyruvate | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | dimethoxy ethane | 50 ml | C(OC)COC | C4H10O2
product | 1-carbethoxycarbonylmethyl-2-amino-3-carbamoyl-quinoxalinium bromide | 1.44 g | [Br-].C(=O)(OCC)C(=O)C[N+]1=C(C(=NC2=CC=CC=C12)C(N)=O)N | InChI=1S/C14H14N4O4.BrH/c1-2-22-14(21)10(19)7-18-9-6-4-3-5-8(9)17-11(12(18)15)13(16)20;/h3-6,15H,2,7H2,1H3,(H2,16,20);1H
